US07115617B2
n-Butyllithium (21.6 mL, 2.5M in hexane) was added dropwise to a solution of phenylacetylene (5 g, 0.05 mol) in dry Et2O (200 mL) maintaining at −78° C. under inert atmosphere. A solution of 2-pyridyl cyanate (7.2 g, 0.06 mol) in dry Et2O (100 mL) was added dropwise keeping the temperature below −60° C. The mixture was stirred for 30 min at −78° C. then warmed to RT. The reaction was diluted with Et2O and quenched with 1N NaOH. The organic layer was washed once with 1N HCl and once with saturated NaHCO3. The solvent was removed under vacuum maintaining the temperature under 30° C. to give 3-phenyl-2-propynenitrile as a colorless crystalline solid.

reactant | n-Butyllithium | 2.5M, 21.6 mL | C(CCC)[Li]
reactant | phenylacetylene | 0.05 mol, 5 g | C1(=CC=CC=C1)C#C | C8H6
reactant | 2-pyridyl cyanate | 0.06 mol, 7.2 g | N1=C(C=CC=C1)OC#N | C6H4N2O
solvent | Et2O | 200 mL | CCOCC | C4H10O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 3-phenyl-2-propynenitrile | C1(=CC=CC=C1)C#CC#N | C9H5N
